US05998433
b) Synthesis of N,N-dimethyl-[5-[4-(2-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-[4-(2-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.180 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-[4-(2-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.180 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1C(C1)C1=CC=CC=C1)=O | C26H28N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-[4-(2-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C1C(C1)C1=CC=CC=C1)=O | InChI=1S/C26H28N2O2.ClH/c1-27(2)17-22-14-21-16-28(13-12-25(21)30-22)26(29)20-10-8-19(9-11-20)24-15-23(24)18-6-4-3-5-7-18;/h3-11,14,23-24H,12-13,15-17H2,1-2H3;1H
